US08084620B2
Step 2 A solution of 3-bromo-4-fluoroaniline (250 mg, 1.316 mmol) in THF (6 mL) was stirred on ice and treated with TEA (0.367 mL, 2.63 mmol), then with phenyl 4-methylthiazol-2-ylcarbamate (308 mg, 1.316 mmol) and the resulting solution was stirred at rt for 70 h. The mixture was concentrated and the residue was stirred in 1 M hydrochloric acid, forming a precipitate which was collected by filtration, rinsed with water and dried under vacuum to provide 1-(3-bromo-4-fluorophenyl)-3-(4-methylthiazol-2-yl)urea as an off white solid (400 mg, 92%). 1H NMR (400 MHz, DMSO-d6) δ 9.62 (s, 1H) 7.94 (dd, J=6.3, 2.5 Hz, 1H) 7.37-7.45 (m, 1H) 7.32 (t, J=8.7 Hz, 1H) 6.67 (d, J=1.1 Hz, 1H) 2.23 (d, J=1.1 Hz, 3H). Mass spectrum m/z 330, 332 (M+H)+.

reactant | 3-bromo-4-fluoroaniline | 1.316 mmol, 250 mg | BrC=1C=C(N)C=CC1F | C6H5BrFN
reactant | phenyl 4-methylthiazol-2-ylcarbamate | 1.316 mmol, 308 mg | CC=1N=C(SC1)NC(OC1=CC=CC=C1)=O | C11H10N2O2S
solvent | THF | 6 mL | C1CCOC1 | C4H8O
product | 1-(3-bromo-4-fluorophenyl)-3-(4-methylthiazol-2-yl)urea | BrC=1C=C(C=CC1F)NC(=O)NC=1SC=C(N1)C | C11H9BrFN3OS
